US04623376
Preparation of 5-methyl-3-phenylpyridazine-1-oxide
To a solution of 5-methyl-3-phenylpyridazine (2.0 g) in 40 mL of CHCl3 is added m-chloroperbenzoic acid (2.9 g, 80% pure). The solution is permitted to stand at room temperature until the reaction is complete. The precipitate which forms during the reaction period is removed by filtration, and the filtrate diluted with ether. The ether solution is then washed sequentially with 10% aqueous sodium sulfite, saturated sodium bicarbonate, and saturated brine. The washed liquid is dried over MgSO4 and then concentrated in vacuo to give 1.6 g (73%) of a pale yellow crystalline solid having a melting point of 112°-114° C.

reactant | 5-methyl-3-phenylpyridazine | 2.0 g | CC=1C=C(N=NC1)C1=CC=CC=C1 | C11H10N2
reactant | m-chloroperbenzoic acid | 2.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CHCl3 | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-methyl-3-phenylpyridazine-1-oxide | 1.6 g, 73% | CC=1C=C(N=[N+](C1)[O-])C1=CC=CC=C1 | C11H10N2O
